US07078407B2
To 4-hydroxy-3,5-bis-nonyloxy benzoic acid (98 mg, 0.23 mmol), 1-(4-chlorophenyl)-2-piperazine-1-yl-ethanone (111 mg, 0.46 mmol), EDCI (89 mg, 0.46 mmol) and HOBT (63 mg, 0.46 mmol) was added MeCN (3 ml) and stirred for 1 hour at room temperature. The solution was added with NaHCO3 to finish the reaction. The solution was extracted with EtOAc, dried over anhydrous Na2SO4 and filtered. The obtained filterate was vacuum concentrated to give the residue, which was purified by column chromatography (Hexane:EtOAc=1:10), yielding 98 mg (66%) of 1-(4-chlorophenyl)-2-[4-(4-hydroxy-3,5-bis-pentyloxybenzoyl)piperizine -1-yl]ethanone.

reactant | 4-hydroxy-3,5-bis-nonyloxy benzoic acid | 0.23 mmol, 98 mg | OC1=C(C=C(C(=O)O)C=C1OCCCCCCCCC)OCCCCCCCCC | C25H42O5
reactant | 1-(4-chlorophenyl)-2-piperazine-1-yl-ethanone | 0.46 mmol, 111 mg | ClC1=CC=C(C=C1)C(CN1CCNCC1)=O | C12H15ClN2O
reactant | EDCI | 0.46 mmol, 89 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.46 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeCN | 3 ml | CC#N | C2H3N
product | 1-(4-chlorophenyl)-2-[4-(4-hydroxy-3,5-bis-pentyloxybenzoyl)piperizine -1-yl]ethanone | 98 mg, 66% | ClC1=CC=C(C=C1)C(CN1CCN(CC1)C(C1=CC(=C(C(=C1)OCCCCC)O)OCCCCC)=O)=O | C29H39ClN2O5
